US06437147B1
At 0° C. a solution of 4′-(trifluoromethyl)biphenyl-2-carboxylic acid methylamide (8.50 g, 36.44 mmol) in THF (100 ml) was added to a suspension of sodium borohydride (2.8 g, 73.05 mmol) in THF (50 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of iodine (7.70 g, 36.44 mmol) in THF (100 ml) was added dropwise. The reaction mixture was heated to reflux for 16 hours. It was cooled to 0° C. Methanol (200 ml) was added dropwise. The solvent was removed in vacuo. The residue was dissolved in tert-butyl methyl ether (150 ml) and a 20% aqueous solution of sodium hydroxide (150 ml). The phases were separated. The aqueous phase was extracted with tert-butyl methyl ether (2×80 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (400 g) using DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 2.35 g of N-methyl-N-((4′-(trifluoromethyl)biphenyl-2-yl)methyl)amine.

reactant | 4′-(trifluoromethyl)biphenyl-2-carboxylic acid methylamide | 36.44 mmol, 8.50 g | CNC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO
reactant | sodium borohydride | 73.05 mmol, 2.8 g | [BH4-].[Na+]
reactant | iodine | 36.44 mmol, 7.70 g | II | I2
reactant | Methanol | 200 ml | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-methyl-N-((4′-(trifluoromethyl)biphenyl-2-yl)methyl)amine | 2.35 g | CNCC1=C(C=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C15H14F3N
